* Include the corner file (SS - Slow NMOS / Slow PMOS for your first case)
.include /modelfile_65nm/minNminP.cir  ; 

*simulation
*Eldo is case insensitive
*Comment is done in new line using * option

* include the corner file to be used TT/SS/SF/FF/FS
.include /modelfile_65nm/minNminP.cir

*Inculde the source netlist (exported from cadence)
.include inv.src.net

*Instantiate the inverter as in the netlist file

X1 gnd Vin Vout Vdd inv

*You can choose to make some parameters
.param SUPPLY = 1.08
.param tend = 150n
*.param wp = 0.2
.TEMP = 125

C vout gnd 20f

*Give input to the netlist
vd vdd 0 SUPPLY
vg gnd 0 0
* (low_voltage high_voltage starting_delay rise_time fall_time on_pulse_width time_period)
v1 vin gnd PULSE (0 1.08 0 20p 20p 5n 10n)

*Specify which all outputs you want to see, Here all voltages and currents specified
.probe v(*) v(X1.*)
.probe i(*)

* rising propagation delay
*tplh is rise delay and tphl is fall delay at the output

.measure tran tplh
+ TRIG v(vin) VAL='SUPPLY/2' FALL=1
+ TARG v(vout) VAL='SUPPLY/2' RISE=1

*falling propagation delay
*The trigger and targate varies according to which transition you want to calculate the delay.
.measure tran tphl
+ TRIG v(vin) VAL='SUPPLY/2' RISE=1
+ TARG v(vout) VAL='SUPPLY/2' FALL=1

.measure tran tfall
+ TRIG v(vout) VAL='0.8*SUPPLY' FALL=1
+ TARG v(vout) VAL='0.2*SUPPLY' FALL=1

.measure tran trise
+ TRIG v(vout) VAL='0.2*SUPPLY' RISE=1
+ TARG v(vout) VAL='0.8*SUPPLY' RISE=1

*delay calculation from tphl and tplh
.measure delay param = ('tplh+tphl'/2)


*.PLOT TRANS V(vin) VERSUS V(vin)

.tran 1p tend
*.tran 10p tend sweep wp 0.2 15 0.05
*.dc V1 0 SUPPLY 0.01
*.plot extract V(vin) V(vout)
*.endc

.end
